### PR TITLE
[Merged by Bors] - feat(SetTheory/Cardinal): generalize and rename theorems on `Cardinal.sum`

### PR DESCRIPTION
**Pull request by staroperator**
Some theorems on `Cardinal.sum f` are taking `f : ι → Cardinal.{max u v}`, which can be generalized to `f : ι → Cardinal.{v}`. Also rename `sum_le_iSup_lift`, `sum_eq_iSup_lift` etc. to reflect their signatures in names.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 1]
```diff
@@ -192,14 +192,23 @@ instance uncountable : Uncountable Cardinal.{u} :=
...
+    lift_umax.{max v u, u}, ← sum_const]
+  refine sum_le_sum _ _ fun i => ?_
+  rw [lift_umax.{v, u}]
+  exact le_ciSup (bddAbove_of_small _) i
 
-theorem sum_le_iSup {ι : Type u} (f : ι → Cardinal.{u}) : sum f ≤ #ι * iSup f := by
-  rw [← lift_id #ι]
-  exact sum_le_iSup_lift f
+theorem sum_le_lift_mk_mul_iSup {ι : Type u} (f : ι → Cardinal.{max u v}) :
+    sum f ≤ lift #ι * iSup f := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Basic.lean]: Might as well fix this too.
```suggestion
    sum f ≤ lift #ι * ⨆ i, f i := by
```

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 2]
```diff
@@ -192,14 +192,23 @@ instance uncountable : Uncountable Cardinal.{u} :=
...
+  simpa [← lift_umax] using sum_le_lift_mk_mul_iSup_lift f
+
+theorem sum_le_mk_mul_iSup {ι : Type u} (f : ι → Cardinal.{u}) : sum f ≤ #ι * iSup f := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Basic.lean]:
```suggestion
theorem sum_le_mk_mul_iSup {ι : Type u} (f : ι → Cardinal.{u}) : sum f ≤ #ι * ⨆ i, f i := by
```

**Review by vihdzp — APPROVED** [review]
Thank you!

File: Mathlib/SetTheory/Cardinal/Regular.lean [hunk 3]
```diff
@@ -145,9 +145,14 @@ theorem iSup_lt_of_isRegular {ι} {f : ι → Cardinal} {c} (hc : IsRegular c) (
     (∀ i, f i < c) → iSup f < c :=
   iSup_lt (by rwa [hc.cof_eq])
 
+theorem sum_lt_lift_of_isRegular' {ι} {f : ι → Cardinal} {c : Cardinal} (hc : IsRegular c)
```
Comment (staroperator) [inline Mathlib/SetTheory/Cardinal/Regular.lean]: This name is a bit scary. Any suggestions are welcome!

Comment (staroperator) [reply Mathlib/SetTheory/Cardinal/Regular.lean]: Renamed to `IsRegular.sum_lt_of_lift_mk_lt_of_lift_lt`. We should also rename other `_of_isRegular` theorems to `IsRegular.` in the same file in future.

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 4]
```diff
@@ -250,6 +259,11 @@ theorem lift_iSup_le_lift_iSup' {ι : Type v} {ι' : Type v'} {f : ι → Cardin
     (h : ∀ i, lift.{v'} (f i) ≤ lift.{v} (f' (g i))) : lift.{v'} (iSup f) ≤ lift.{v} (iSup f') :=
   lift_iSup_le_lift_iSup hf hf' h
 
+theorem lift_iSup_le_sum {ι} [Small.{v, u} ι] (f : ι → Cardinal.{v}) :
```
Comment (alreadydone) [inline Mathlib/SetTheory/Cardinal/Basic.lean]:
```suggestion
theorem lift_iSup_le_sum {ι : Type u} [Small.{v} ι] (f : ι → Cardinal.{v}) :
```

File: Mathlib/SetTheory/Cardinal/Defs.lean [hunk 5]
```diff
@@ -450,17 +450,21 @@ theorem prod_eq_zero {ι} (f : ι → Cardinal.{u}) : prod f = 0 ↔ ∃ i, f i
 
 theorem prod_ne_zero {ι} (f : ι → Cardinal) : prod f ≠ 0 ↔ ∀ i, f i ≠ 0 := by simp [prod_eq_zero]
 
-theorem power_sum {ι} (a : Cardinal) (f : ι → Cardinal) :
-    a ^ sum f = prod fun i ↦ a ^ f i := by
+theorem lift_power_sum {ι} (a : Cardinal) (f : ι → Cardinal) :
+    (Cardinal.lift.{u, v} a) ^ sum f = prod fun i ↦ a ^ f i := by
```
Comment (alreadydone) [inline Mathlib/SetTheory/Cardinal/Defs.lean]: It's better to add universes for the three arguments on the first line, I think. And the same below, when there are more than one universes involved.

**Review by alreadydone — APPROVED** [review]
Thanks 🎉 
maintainer delegate

(and please merge master)

File: Mathlib/SetTheory/Cardinal/Defs.lean (hunk 5 above)
Comment (staroperator) [reply Mathlib/SetTheory/Cardinal/Defs.lean]: That makes sense! Done

File: Mathlib/SetTheory/Cardinal/Regular.lean (hunk 3 above)
Comment (staroperator) [reply Mathlib/SetTheory/Cardinal/Regular.lean]: I have reverted those renames. I plan to do that with generalization of other `IsRegular` theorems together, in the future.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by alreadydone** [comment]
It would be nicer if you used `merge` rather than `rebase` to update the branch, since the comparison shows too large a diff with `rebase`. It took me a while to figure out the changes after my review are the four commits starting from [4fe67f2](https://github.com/leanprover-community/mathlib4/pull/29351/commits/4fe67f22410215c7d8f2be06855bf60343e383f7).
image

**Review by alreadydone — APPROVED** [review]

**Comment by staroperator** [comment]
> It would be nicer if you used `merge` rather than `rebase` to update the branch, since the comparison shows too large a diff with `rebase`. It took me a while to figure out the changes after my review are the four commits starting from [4fe67f2](https://github.com/leanprover-community/mathlib4/pull/29351/commits/4fe67f22410215c7d8f2be06855bf60343e383f7). image

Emm, I personally strongly prefer rebase because it makes neat commit history. Though what you said makes sense; let me try to do merge instead of rebase in my other PRs after someone has reviewed.

**Comment by riccardobrasca** [comment]
> > It would be nicer if you used `merge` rather than `rebase` to update the branch, since the comparison shows too large a diff with `rebase`. It took me a while to figure out the changes after my review are the four commits starting from [4fe67f2](https://github.com/leanprover-community/mathlib4/pull/29351/commits/4fe67f22410215c7d8f2be06855bf60343e383f7). image
> 
> Emm, I personally strongly prefer rebase because it makes neat commit history. Though what you said makes sense; let me try to do merge instead of rebase in my other PRs after someone has reviewed.

We squash merge, so the history of your branch does not really matter.

**Comment by staroperator** [comment]
> > > It would be nicer if you used `merge` rather than `rebase` to update the branch, since the comparison shows too large a diff with `rebase`. It took me a while to figure out the changes after my review are the four commits starting from [4fe67f2](https://github.com/leanprover-community/mathlib4/pull/29351/commits/4fe67f22410215c7d8f2be06855bf60343e383f7). image
> > 
> > 
> > Emm, I personally strongly prefer rebase because it makes neat commit history. Though what you said makes sense; let me try to do merge instead of rebase in my other PRs after someone has reviewed.
> 
> We squash merge, so the history of your branch does not really matter.

That's right, keeping a neat commit history is my personal aestheticism 😃 Especially when merge does not allow deleting commits from dependency PRs.
